US08232278B2
Synthesis of 6-(4-fluoro-phenyl)-4-methoxy-pyrido[3,2-d]pyrimidin-2-ylamine
Sodium methoxide (0.32 mL, 0.158 mmol; 0.5 N in MeOH) was added to a solution of N-[4-chloro-6-(4-fluoro-phenyl)-pyrido[3,2-d]pyrimidin-2-yl]-acetamide (20 mg, 0.063 mmol) in THF (1.5 mL). After stirring at room temperature for 20 minutes, solvents were concentrated in vacuo and the residue was purified by RP HPLC using a C18 column with a gradient of H2O and 0.1% TFA-acetonitrile, to provide the pure title compound as a white solid (14 mg, yield 50%) which was characterised as follows: MS (m/z) 271.0 [M+H]+.

reactant | Sodium methoxide | 0.158 mmol, 0.5 N, 0.32 mL | C[O-].[Na+]
reactant | N-[4-chloro-6-(4-fluoro-phenyl)-pyrido[3,2-d]pyrimidin-2-yl]-acetamide | 0.063 mmol, 20 mg | ClC=1C2=C(N=C(N1)NC(C)=O)C=CC(=N2)C2=CC=C(C=C2)F | C15H10ClFN4O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 6-(4-fluoro-phenyl)-4-methoxy-pyrido[3,2-d]pyrimidin-2-ylamine | 14 mg, yield 50% | FC1=CC=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)OC)N | C14H11FN4O
